US04220792
Into a 500 ml. Erlenmeyer flask, fitted with a thermometer and a magnetic stirrer, containing a solution of 8.3 g. (0.0346 M.) of 1-(m-trifluoromethylphenyl)pyrazole-4-carboxaldehyde in 300 ml. of acetone is slowly added 20.0 ml. of Jones reagent (prepared by dissolving 26.7 g. of chromium trioxide in 23.0 ml. of concentrated sulfuric acid and then diluting to 100 ml. with water), the addition of the Jones reagent being effected while the solution is cooled by an ice water bath. Upon completion of the addition of the Jones reagent, the reaction mixture is stirred, under cooling, for 15 minutes and then for an additional 20 minutes at room temperature, after which time it is quenched with a large volume of water and allowed to stand at room temperature for about 3 hours. The resultant precipitated solids are then filtered and washed successively with water and petroleum ether. The solvent is then removed under vacuum to yield 1-(m-trifluoromethylphenyl)pyrazole-4-carboxylic acid, m.p. 145°-148° C. (Yield: 89%).

reactant | 1-(m-trifluoromethylphenyl)pyrazole-4-carboxaldehyde | 0.0346 M | FC(C=1C=C(C=CC1)N1N=CC(=C1)C=O)(F)F | C11H7F3N2O
reactant | acetone | CC(=O)C | C3H6O
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | O | H2O
product | 1-(m-trifluoromethylphenyl)pyrazole-4-carboxylic acid | Yield: 89% | FC(C=1C=C(C=CC1)N1N=CC(=C1)C(=O)O)(F)F | C11H7F3N2O2
